US05641787
3-[1,2,-Dihydroindol-2-yl]methyl-1H-indole
To gramine (731 mgs, 4.2 mmol) in dry PhMe (20 ml) was added 1,2-dihydroisoindole (prepared as in Org. Syn., Coll. Vol. V, p. 406) (500 mgs, 4.2 mmol) and the reaction refluxed for 6 h. The solvent was evaporated, the residue triturated with PhMe and the resultant solid recrystallised from PhMe to yield the title compound (550 mgs, 52%). M.p. 168°-170° C.; (Found: C, 80.44; H, 6.46; N, 10.98. C17H16N2.0.25H2O) requires C, 80.76; H, 6.38; N, 11.08%). δH (CDCl3) 4.00 (4H, s, 2×isoindolinyl CH2), 4.11 (2H, s, NCH2Ar), 7.08-7.23 (7H, m, ArH), 7.36 (1H, d, J 7.9 Hz, ArH), 7.77 (1H, d, J 7.9 Hz, ArH), 8.18 (1H, brs, NH); m/z (CI+, NH3) 249 (M+1)+.

reactant | gramine | 4.2 mmol, 731 mgs | CN(C)CC1=CNC2=C1C=CC=C2 | C11H14N2
reactant | 1,2-dihydroisoindole | 4.2 mmol, 500 mgs | C1NCC2=CC=CC=C12 | C8H9N
solvent | PhMe | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[1,2,-Dihydroindol-2-yl]methyl-1H-indole | 550 mgs, 52% | N1C(CC2=CC=CC=C12)CC1=CNC2=CC=CC=C12 | C17H16N2
